US08557738B2
Synthesis of trifluoromethanesulfonic acid 7-chloro-2,2-dimethyl-3,4-dihydro-2H-benzo[f][1,4]oxazepin-5-yl ester
1.6 g (7.09 mmol) of 7-chloro-2,2-dimethyl-3,4-dihydro-2H-benzo[f][1,4]oxazepin-5-one were dissolved in 50 mL of dichloromethane followed by dropping 3.0 g (10.6 mmol) of trifluoromethanesulfonic acid anhydride while cooling to −10° C. and stirring for 1 hour at the same temperature. Moreover, 1.13 g (10.6 mmol) of 2,6-lutidine were added while cooling to −10° C. and stirred for 1 hour followed by pouring the reaction liquid into ice water and extracting with chloroform. After washing the organic layer with saturated saline, the solvent was distilled off under reduced pressure followed by purifying the resulting residue by silica gel column chromatography (developing solvent; n-hexane:ethyl acetate=9:1) to obtain 2.25 g (yield: 89%) of the target compound.

reactant | 7-chloro-2,2-dimethyl-3,4-dihydro-2H-benzo[f][1,4]oxazepin-5-one | 7.09 mmol, 1.6 g | ClC=1C=CC2=C(C(NCC(O2)(C)C)=O)C1 | C11H12ClNO2
reactant | trifluoromethanesulfonic acid anhydride | 10.6 mmol, 3.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 10.6 mmol, 1.13 g | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 7-chloro-2,2-dimethyl-3,4-dihydro-2H-benzo[f][1,4]oxazepin-5-yl ester | 2.25 g, yield: 89% | ClC=1C=CC2=C(C(NCC(O2)(C)C)OS(=O)(=O)C(F)(F)F)C1 | C12H13ClF3NO4S
